US07342127B2
To a stirred solution of compound N-[3,5-dibromo-4-[4-hydroxy-5-isopropyl-3-methylphenoxy]-2-trifluoromethyl-phenyl]malonamic acid ethyl ester of Part 11 G (15 mg, 0.027 mmol) in THF (0.5 mL) was added LiOH (0.25 mL, 1N). After 1 hour stirring the pH of reaction was adjusted to 1 by 1N HCl and the organic phase was removed in vacuo. The resulting mixture was extracted with EtOAc (3×3 mL) and the combined organic phases were dried over Na2SO4 before concentration in vacuo. The residue was purified on column (silica gel, gradient elution, CHCl3/MeOH/AcOH from 1:0:0 to 90:10:1) to give N-[3,5-dibromo-4-[4-hydroxy-5-isopropyl-3-methylphenoxy]-2-trifluoromethylphenyl]malonamic acid as a white solid (6 mg, 42%)

reactant | N-[3,5-dibromo-4-[4-hydroxy-5-isopropyl-3-methylphenoxy]-2-trifluoromethyl-phenyl]malonamic acid ethyl ester | C(C)OC(CC(=O)NC1=C(C(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)O)C)Br)C(F)(F)F)=O | C22H22Br2F3NO5
reactant | LiOH | 1N, 0.25 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N-[3,5-dibromo-4-[4-hydroxy-5-isopropyl-3-methylphenoxy]-2-trifluoromethylphenyl]malonamic acid | 6 mg, 42% | BrC=1C(=C(C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)C)Br)NC(CC(=O)O)=O)C(F)(F)F | C20H18Br2F3NO5
